US05180741
Stage A: 2-chloro-4-(2-propenyl)-1-indanone
8 g of 3-trimethylsilyloxy-7-(2-propenyl)-indene in 25 ml of 1,2-dichloroethane is cooled to 0° C.; 31 g of N-chlorosuccinimide in 80 ml of dichloroethane is introduced over 25 minutes, with agitation for 30 minutes at 0° C.; 0.6 g of N-chlorosuccinimide in 15 ml of dichloroethane and a few mg of paratoluene sulphonic acid are added. After 30 minutes of agitation at 0° C., the reaction mixture is poured over an iced aqueous solution saturated with monopotassium phosphate, with agitation for 16 hours at 20° C. After decanting and extracting with methylene chloride, the extracts are dried, and concentrated to dryness under reduced pressure. The residue is chromatographed on silica, eluting with a hexane-isopropyl ether mixture (7-3). The fractions recovered are concentrated and chromatographed again on silica, eluting with a hexane-isopropyl ether mixture (3-1) and 2.75 g of expected product is isolated.

reactant | 3-trimethylsilyloxy-7-(2-propenyl)-indene | 8 g | C[Si](OC1=CCC2=C(C=CC=C12)CC=C)(C)C | C15H20OSi
reactant | N-chlorosuccinimide | 31 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.6 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | paratoluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | monopotassium phosphate | P(=O)([O-])(O)O.[K+]
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
solvent | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | 2-chloro-4-(2-propenyl)-1-indanone | 2.75 g | ClC1C(C2=CC=CC(=C2C1)CC=C)=O | C12H11ClO
